US04075342
2-(3-Methoxyphenyl)-4,5-dihydro-imidazo[1,2-a]quinoline
2-(3-Methoxyphenyl)imidazo[1,2-a]quinoline (2.74 g) together with 0.5 g. of 10% palladium on charcoal, 35 ml. of ethanol and 25 ml. of acetic acid is hydrogenated at 90° C. and 10 atmospheres for five hours. After filtration of the catalyst, the solution is evaporated to dryness and the residue is washed with water and aqueous solution carbonate. The resulting solid is extracted with ethyl ether and the organic solution, after drying, is evaporated to yield a product which, after crystallization from a hexane dichloromethane mixture, melts at 107°-9° C.

reactant | 2-(3-Methoxyphenyl)imidazo[1,2-a]quinoline | 2.74 g | COC=1C=C(C=CC1)C=1N=C2N(C3=CC=CC=C3C=C2)C1 | C18H14N2O
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-Methoxyphenyl)-4,5-dihydro-imidazo[1,2-a]quinoline | COC=1C=C(C=CC1)C=1N=C2N(C3=CC=CC=C3CC2)C1 | C18H16N2O
